US04630896
A mixture of 20 g of 2-(trans-4-pentylcyclohexyl)ethanol, 27.5 g of triphenylphosphine and 350 ml of dichloromethane was treated portionwise while stirring at -30° C. over a period of 45 minutes under an inert gas atmosphere with 36.5 g of tetrabromomethane. The resulting mixture was then stirred at -20° C. for another 30 minutes and at room temperature for 5 hours. The mixture was subsequently concentrated and the residue was triturated with 500 ml of hexane. After cooling to 0° C., the precipitated triphenylphosphine oxide was filtered off and the filtrate was chromatographed on silica gel with hexane. The crude 1-bromo-2-(trans-4-pentylcyclohexyl)ethane obtained (29.0 g) was distilled at 92°-98° C./1.5 Torr. Yield: 21.9 g as a colourless oil.

reactant | 2-(trans-4-pentylcyclohexyl)ethanol | 20 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCO | C13H26O
reactant | triphenylphosphine | 27.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | 36.5 g | BrC(Br)(Br)Br | CBr4
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 1-bromo-2-(trans-4-pentylcyclohexyl)ethane | BrCC[C@@H]1CC[C@H](CC1)CCCCC | C13H25Br
